US08685969B2
3. Ethyl 9-bromo-6-cyano-5H-pyrido[4,3-b]indole-3-carboxylate
To a solution of ethyl 2-(((4-bromo-7-cyano-1H-indol-3-yl)methyl)amino)-3,3-diethoxypropanoate (1.12 g, 2.56 mmol) in toluene (51.1 mL) at 0° C. was added dropwise titanium tetrachloride (1 M in CH2Cl2, 8.94 mL, 8.94 mmol). The mixture was heated at 90° C. for 3 h. The mixture was cooled to room temperature and partitioned between NaHCO3 (aq) and EtOAc. The organic phase was washed with brine, dried and concentrated. The resulting dark yellow solid was suspended in methanol, then collected by filtration and air-dried to afford the desired product as a yellow solid (300 mg, 29% yield), contaminated with partially aromatized material (ethyl 9-bromo-6-cyano-4,5-dihydro-3H-pyrido[4,3-b]indole-3-carboxylate and/or ethyl 9-bromo-6-cyano-2,5-dihydro-1H-pyrido[4,3-b]indole-3-carboxylate) and ethyl 9-bromo-6-cyano-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-3-carboxylate, which was used without further purification. LCMS (M+H)+ m/z 343.9, 345.9.

reactant | ethyl 2-(((4-bromo-7-cyano-1H-indol-3-yl)methyl)amino)-3,3-diethoxypropanoate | 2.56 mmol, 1.12 g | BrC1=C2C(=CNC2=C(C=C1)C#N)CNC(C(=O)OCC)C(OCC)OCC | C19H24BrN3O4
solvent | toluene | 51.1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 8.94 mmol, 1 M, 8.94 mL | [Ti](Cl)(Cl)(Cl)Cl
product | Ethyl 9-bromo-6-cyano-5H-pyrido[4,3-b]indole-3-carboxylate | 300 mg, 29% yield | BrC=1C=2C3=C(NC2C(=CC1)C#N)C=C(N=C3)C(=O)OCC | C15H10BrN3O2
